US07579473B2
To a round bottom flask equipped with a magnetic stir bar was added 6,7-dimethoxy-4-(5-nitro-pyridin-2-yloxy)-quinoline (0.46 g, 1.41 mmol, 1.0 eq.), and THF (10 mL), MeOH (4 mL), DMF (2 mL), and TEA (2 mL). The 6,7-Dimethoxy-4-(5-nitro-pyridin-2-yloxy)-quinoline was dissolved completely in the above solution mixture, and was flushed with nitrogen for at least 5 minutes. The Pd/C (10% by weight) (0.090 g, 20% by weight) was then added. A balloon filled with H2 was connected to the flask after the nitrogen was vacuumed out. The reaction mixture was stirred at room temperature for 4 hours. The palladium was filtered out through Celite, and the filtrated was collected and concentrated via rotary evaporation. The resulting oil-like product was taken up into 5 mL of water and 1 mL of acetonitrile and lyophilized to yield 6-(6,7-dimethoxy-quinolin-4-yloxy)-pyridin-3-ylamine as a light brown solid (0.411 g, 98.1%). 1H NMR (400 MHz, CDCl3): 8.54 (d, 1H), 7.85 (d, 1H), 7.53 (s, 1H), 7.41 (s, 1H), 7.18 (dd, 1H), 6.96 (d, 1H), 6.61 (d, 1H), 4.05 (s, 3H), 4.03 (s, 3H), 3.73 (s, 2H); MS (EI) for C16H15N3O3: 298 (M+H+).

reactant | 6,7-dimethoxy-4-(5-nitro-pyridin-2-yloxy)-quinoline | 1.41 mmol, 0.46 g, 1.0 eq. | COC=1C=C2C(=CC=NC2=CC1OC)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H13N3O5
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | MeOH | 4 mL | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(6,7-dimethoxy-quinolin-4-yloxy)-pyridin-3-ylamine | 0.411 g, 98.1% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=N1)N | C16H15N3O3
